US07776847B2
A mixture of anhydrous N,N-dimethylformamide (30 ml), sodium methoxide (0.54 g, 10 mmol), methyl 3-mercaptopropionate (1.20 g, 10 mmol) and 2-chloro-3-cyanopyridine (1.38 g, 10 mmol) was stirred at room temperature for 1 h. The reaction mixture was poured into water (200 ml), the product filtered, washed with water and recrystallized from ethyl acetate/hexanes to yield methyl 3-(3-cyanopyridin-2-ylthio)propanoate (1.60 g). mp 101-102° C. as heavy colorless prisms. 1H NMR (300 MHz, CDCl3): 8.45 (dd, 1H), 7.02 (dd, 1H), 3.68 (s, 3H), 3.49 (t, 2H), 2.78 ppm (t, 2H).

reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | sodium methoxide | 10 mmol, 0.54 g | C[O-].[Na+]
reactant | methyl 3-mercaptopropionate | 10 mmol, 1.20 g | SCCC(=O)OC | C4H8O2S
reactant | 2-chloro-3-cyanopyridine | 10 mmol, 1.38 g | ClC1=NC=CC=C1C#N | C6H3ClN2
solvent | water | 200 ml | O | H2O
product | methyl 3-(3-cyanopyridin-2-ylthio)propanoate | 1.60 g | C(#N)C=1C(=NC=CC1)SCCC(=O)OC | C10H10N2O2S
